US09029549B2
1-Naphthyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-813)
2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-1, 7.00 g) is reacted analogously to Example I-811 with 1-naphthol (3.12 g). This gives, after chromatographic purification, 1-naphthyl-2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (4.0 g, 44%).

reactant | 2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | 7.00 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)F | C16H16F4N4O3S
reactant | 1-naphthol | 3.12 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
product | 1-Naphthyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OC1=CC=CC2=CC=CC=C12)F | C26H22F4N4O3S
